US06982348B2
7) 5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one
To a solution of 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid (4.22 g, 9.07 mmol, crude) in tetrahydrofuran (200 ml) were added diphenylphosphoryl azide (2.15 ml, 9.97 mmol) and triethylamine (1.90 mmol, 13.6 mmol), and the mixture was heated under reflux for 3 hrs. The reaction solution was allowed to cool and water (100 ml) was added. The mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with 1N hydrochloric acid, aqueous sodium hydrogen carbonate solution and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1) to give the objective substance in a (4RS,5RS) form (1.06 g, highly polar component, 25%) and a (4RS,5SR) form (1.94 g, less polar component, 46%, recrystallized from hexane-ethyl acetate). (4RS,5RS) form: 1H-NMR (CDCl3)δ: 2.04-2.22 (1H, m), 2.53 (1H, dd, J=14.0, 3.4 Hz), 4.38-4.50 (1H, m), 5.12 (1H, s), 5.87 (1H, d, J=8.4 Hz), 5.90 (1H, tt, J=53.2, 3.0 Hz), 6.90-7.48 (10H, m), 7.54 (1H, d, J=8.4 Hz), 8.39 (1H, d, J=2.6 Hz). IR ν maxKBrcm−1: 1761, 1588, 1574, 1487. (4RS,5SR) form: 1H-NMR (CDCl3)δ: 2.98 (1H, dd, J=13.6, 9.2 Hz), 3.28 (1H, dd, J=13.6, 4.4 Hz), 4.20-4.34 (1H, m), 5.12 (1H, brs), 5.32 (1H, d, J=5.4 Hz), 5.91 (1H, tt, J=53.2, 3.0 Hz), 7.00-7.48 (11H, m), 8.38 (1H, d, J=2.4 Hz). IR ν maxKBrcm−11761, 1588, 1576, 1489. mp 87-88° C. Anal. Calcd for C23H18F4N2O4: C, 59.74; H, 3.92; N, 6.06. Found: C, 59.70; H, 3.81; N, 6.03.

reactant | 3-hydroxy-3-(5-phenoxypyridin-2-yl)-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | 9.07 mmol, 4.22 g | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=NC=C(C=C1)OC1=CC=CC=C1 | C23H19F4NO5
reactant | diphenylphosphoryl azide | 9.97 mmol, 2.15 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.90 mmol | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(5-phenoxypyridin-2-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | O(C1=CC=CC=C1)C=1C=CC(=NC1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C23H18F4N2O4
